US08193351B2
Step 5: 5-Chloro-6-cyano-1H,3H benzo[de]isochromene
tert-Butyl nitrite (27.5 ml, 208 mmol) was added to a suspension of copper (II) chloride (22.5 g, 167 mmol) in anhydrous acetonitrile (500 mL) at room temperature under nitrogen atmosphere. The resulting dark green suspension was heated to the internal temperature of 65° C., and a solution of 5-amino-6-cyano-1H,3H benzo[de]isochromene (29.2 g, 139 mmol) in anhydrous acetonitrile (1000 mL) was added thereto. The reaction solution was stirred at 65° C. for 30 minutes, and then allowed to return to room temperature. The reaction solution was diluted with methylene chloride. The mixture was washed in succession with 1N aqueous hydrochloric acid solution and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography using methylene chloride, and dried under reduced pressure. The title compound was obtained as yellow solid material (27.7 g, 87%).

reactant | tert-Butyl nitrite | 208 mmol, 27.5 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-6-cyano-1H,3H benzo[de]isochromene | 139 mmol, 29.2 g | NC=1C(=C2C3=C(COCC3=CC=C2)C1)C#N | C13H10N2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1000 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 167 mmol, 22.5 g | [Cu](Cl)Cl
product | 5-Chloro-6-cyano-1H,3H benzo[de]isochromene | ClC=1C(=C2C3=C(COCC3=CC=C2)C1)C#N | C13H8ClNO
